US07671080B2
Hydrogen chloride gas was bubbled for 5 min into a stirred solution of 5-tert-butyl-2-methoxybenzoic acid (5.00 g, 24.0 mmol) in methanol (100 ml) at 0° C., after which time the solution was heated under reflux for 17.5 h. The reaction was cooled, evaporated to dryness under reduced pressure and purified by chromatography on silica using diethyl ether as eluent to afford 5-tert-butyl-2-methoxybenzoic acid methyl ester as a pale cream solid (5.06 g, 95%).

reactant | Hydrogen chloride | Cl | ClH
reactant | 5-tert-butyl-2-methoxybenzoic acid | 24.0 mmol, 5.00 g | C(C)(C)(C)C=1C=CC(=C(C(=O)O)C1)OC | C12H16O3
reactant | methanol | 100 ml | CO | CH4O
product | 5-tert-butyl-2-methoxybenzoic acid methyl ester | 5.06 g, 95% | COC(C1=C(C=CC(=C1)C(C)(C)C)OC)=O | C13H18O3
